US04533739
2-[(2-Methyl-4-nitrophenyl)amino]-1-pyrroline
A mixture of 2-chloro-1-pyrroline (1.2 mole), prepared as in Example 1, and 91.3 g (0.6 mole) of 2-methyl-4-nitroaniline were heated at reflux in 900 ml of acetonitrile for two hours. The solid obtained by cooling and filtering was combined with that obtained by concentrating the filtrate to dryness, then dissolved in hot water and filtered. The solution was cooled and washed with ethyl acetate, and the aqueous phase was made basic with 4 N sodium hydroxide. The crude product was extracted into dichloromethane, which was then removed in vacuo. The resultant solid was washed repeatedly with diethyl ether to give 67.7 g of pure title compound. Structure assignment was supported by the nmr spectrum and by elemental analysis.

reactant | 2-chloro-1-pyrroline | 1.2 mole | ClC1=NCCC1 | C4H6ClN
reactant | 2-methyl-4-nitroaniline | 0.6 mole, 91.3 g | CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O2
solvent | acetonitrile | 900 ml | C(C)#N | C2H3N
product | 2-[(2-Methyl-4-nitrophenyl)amino]-1-pyrroline | 67.7 g | CC1=C(C=CC(=C1)[N+](=O)[O-])NC1=NCCC1 | C11H13N3O2
